US07723330B2
Step E: Preparation of 5-(4-(benzyloxy)-3-fluorophenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A suspension of 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.145 g, 0.518 mmol), 4-(benzyloxy)-3-fluorophenylboronic acid (0.153 g, 0.621 mmol), Pd(PPh3)4 (0.030 g, 0.026 mmol) and lithium chloride (0.110 g, 2.59 mmol) in dioxane (1.5 mL) and 2 M aqueous Na2CO3 (1.5 mL) was stirred at 100° C. for 20 minutes. The reaction mixture was cooled to room temperature and then partitioned between EtOAc and H2O. The phases were separated, and the aqueous phase was re-extracted with EtOAc (1×). The combined organic layers were dried (Na2SO4), filtered and concentrated to yield a crude black solid. The crude product was purified by flash column chromatography, eluting with 10:1 dichloromethane/EtOAc. The desired product (0.133 g, 64%) was obtained as an off-white waxy solid. 1H NMR (400 MHz, DMSO-d6) δ 8.90 (br s, 1H), 7.93 (s, 1H), 7.59 (dd, J=1.95, 13.7 Hz, 1H), 7.55-7.31 (m, 10H), 7.22 (t, J=9.0 Hz, 1H), 7.14 (t, J=7.4 Hz, 1H), 5.20 (s, 2H), 3.55 (s, 3H). LRMS (ESI pos) m/e 402 (M+1).

reactant | 5-bromo-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.518 mmol, 0.145 g | BrC=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C11H10BrN3O
reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 0.621 mmol, 0.153 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | lithium chloride | 2.59 mmol, 0.110 g | [Cl-].[Li+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | Na2CO3 | 2 M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-(benzyloxy)-3-fluorophenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.133 g, 64% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O)F | C24H20FN3O2
